US03966956
5.2 g of p-methoxyphenylhydrazine were suspended in 25 ml of glacial acetic acid and 90 ml of water and 10 g of benzyl levulinoyloxyacetate were slowly added at room temperature while stirring. After stirring for 1 hour, the mixture was extracted by shaking with toluene, the toluene solution was washed neutral with water, dried and concentrated. 15.1 g of benzyl levulinoyloxyacetate (p-methoxyphenyl)-hydrazone were obtained as a brownish oil, which was not purified but was dissolved in 25 ml of absolute pyridine, and then 100 ml of ether were added and mixed with a solution of 8.7 g of p-chlorobenzoyl chloride in 50 ml of ether at 0°C with the introduction of nitrogen. After boiling for 2 hours under nitrogen, the solution was cooled, washed neutral with water, dried and concentrated by evaporation. 19 g (crude yield) of N(2) -(p-chlorobenzoyl)-N(2) -(p-methoxyphenyl)-hydrazone of benzyl levulinoyloxyacetate were obtained. This product was further treated without purification, by taking it up in 75 ml of glacial acetic acid and heating for 5 hours at 80°C. After evaporating off the glacial acetic acid under vacuum, the further treatment was carried out as described in Example 1. The yield of [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate amounted to 11% of the theoretical, based on the total amount of hydrazine.

reactant | p-methoxyphenylhydrazine | 5.2 g | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | water | 90 ml | O | H2O
reactant | benzyl levulinoyloxyacetate | 10 g | C(CCC(=O)C)(=O)OCC(=O)OCC1=CC=CC=C1 | C14H16O5
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | benzyl levulinoyloxyacetate (p-methoxyphenyl)-hydrazone | 15.1 g | COC1=CC=C(C=C1)NN=C(COC(CCC(=O)C)=O)OCC1=CC=CC=C1 | C21H24N2O5
